US07405300B2
A mixture of 1-(4-tert-butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde (2.95 g, 9.46 mmol), piperazine (10.60 g, 123 mmol) in dioxane (50 mL) is heated overnight at 110° C. Water is added and the reaction mixture is extracted with ethyl acetate. The combined ethyl acetate layers are washed with brine, dried and concentrated. The crude material is purified by chromatography eluting with dichloromethane-5% methanol. Fractions containing product are combined and concentrated to afford 1-(4-tert-butylphenyl)-2-piperazin-1-yl-1H-indole-3-carboxaldehyde (2.4 g, 70% yield) as a light cream solid. TLC (silica gel, dichloromethane-10% methanol) Rf 0.27; ESI/MS 362 (M+H), RT 3.27 min; NMR 10.14 (1H, s); 8.12 (1H, d, J=3 Hz); 8.09 (2H, d); 7.68 (2H, d); 7.47 (2H, m); 6.91 (1H, d, J=6 Hz); 3.20 (4H, m); 2.53 (4H, m); 2.25 (1H, br s); 1.36 (9H, s).

reactant | 1-(4-tert-butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | 9.46 mmol, 2.95 g | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | piperazine | 123 mmol, 10.60 g | N1CCNCC1 | C4H10N2
reactant | Water | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-(4-tert-butylphenyl)-2-piperazin-1-yl-1H-indole-3-carboxaldehyde | 2.4 g, 70% yield | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C23H27N3O
